US05705499
b) 3-Bromo-2-chloro-5,11-dihydro-11-ethyl-4-methyl-8-(2-phenylethen-1-yl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
To a solution of 2-chloro-3,8-dibromo-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.224 g), tris(dibenzylideneacetone)dipalladium(0) (10.7 mg), and triphenylarsine (21.4 mg) in 2 mL of tetrahydrofuran under argon was added a mixture of (E)- and (Z)-(2-phenylethenyl)tributylstannane (0.20 g). The reaction mixture was allowed to stand at 50° C. overnight. Solvent was removed, and the residue was purified by flash chromatography, eluting with ethyl acetate/hexanes, to give 115 mg of the title compound, as a mixture of (E)- and (Z)-isomers.

reactant | 2-chloro-3,8-dibromo-5,11-dihydro-11-ethyl-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.224 g | ClC=1C(=C(C=2NC(C3=C(N(C2N1)CC)N=CC(=C3)Br)=O)C)Br | C14H11Br2ClN4O
reactant | triphenylarsine | 21.4 mg | C1(=CC=CC=C1)[As](C1=CC=CC=C1)C1=CC=CC=C1 | C18H15As
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 10.7 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-Bromo-2-chloro-5,11-dihydro-11-ethyl-4-methyl-8-(2-phenylethen-1-yl)-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 115 mg | BrC1=C(C=2NC(C3=C(N(C2N=C1Cl)CC)N=CC(=C3)C=CC3=CC=CC=C3)=O)C | C22H18BrClN4O
